### PR TITLE
[Merged by Bors] - feat(RingTheory/Extension): naive cotangent complex commutes with flat base change

### PR DESCRIPTION
**Pull request by chrisflav**
From Pi1.

---

- [x] depends on: #35544 
- [x] depends on: #35557 
- [x] depends on: #35594 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean [hunk 1]
```diff
@@ -98,6 +102,104 @@ lemma tensorCotangentSpace_tmul (t : T) (x : P.CotangentSpace) :
...
+      (N₁ := Unit) (M₂ := Unit) (N₂ := Unit)
+    -- The row `0 → 0 → T ⊗ H¹(P) → T ⊗ P.Cotangent → T ⊗ P.CotangentSpace`.
+    0 0
+    ((P.h1Cotangentι.restrictScalars R).lTensor T)
+    ((P.cotangentComplex.restrictScalars R).lTensor T)
+    -- The row `0 → 0 → H¹(T ⊗ P) → (T ⊗ P).Cotangent → (T ⊗ P).CotangentSpace`.
+    0 0
+    (h1Cotangentι.restrictScalars R)
+    ((P.baseChange (T := T)).cotangentComplex.restrictScalars R)
+    0 0
```
Comment (mariainesdff) [inline Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean:155]:
```suggestion
-- The row ...
0 0
```

File: Mathlib/RingTheory/Ideal/Cotangent.lean [hunk 2]
```diff
@@ -260,6 +260,33 @@ lemma Cotangent.lift_surjective_iff (f : I →ₗ[R] M) (hf : ∀ (x y : I), f (
 
 end Lift
 
+/-- A linear isomorphism between cotangent spaces induced by an equality of ideals. -/
+@[expose]
+def Cotangent.equivOfEq (I J : Ideal R) (hIJ : I = J) :
```
Comment (mariainesdff) [inline Mathlib/RingTheory/Ideal/Cotangent.lean]: Why not open a `Cotangent` namespace?

File: Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean [hunk 3]
```diff
@@ -98,6 +102,104 @@ lemma tensorCotangentSpace_tmul (t : T) (x : P.CotangentSpace) :
...
+noncomputable def tensorCotangentOfFlat [Module.Flat R T] :
+    T ⊗[R] P.Cotangent ≃ₗ[T] (P.baseChange (T := T)).Cotangent :=
+  AlgebraTensorModule.congr (.refl T T) (P.cotangentEquivCotangentKer.restrictScalars R) ≪≫ₗ
+    P.ker.tensorCotangentEquiv R T ≪≫ₗ
+    (Ideal.Cotangent.equivOfEq _ _ (P.ker_baseChange T).symm).restrictScalars T ≪≫ₗ
+    (P.baseChange (T := T)).cotangentEquivCotangentKer.symm.restrictScalars T
+
+attribute [local instance] Algebra.TensorProduct.rightAlgebra in
+@[simp]
+lemma tensorCotangent_tmul [Module.Flat R T] (t : T) (x : P.Cotangent) :
```
Comment (mariainesdff) [inline Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean]:
```suggestion
lemma tensorCotangentOfFlat_tmul [Module.Flat R T] (t : T) (x : P.Cotangent) : 
```

File: Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean [hunk 4]
```diff
@@ -98,6 +102,104 @@ lemma tensorCotangentSpace_tmul (t : T) (x : P.CotangentSpace) :
...
+`T ⊗[R] P.H1Cotangent ≃ₗ[T] (P.baseChange).H1Cotangent`. -/
+@[expose]
+noncomputable def tensorH1CotangentOfFlat [Module.Flat R T] :
+    T ⊗[R] P.H1Cotangent ≃ₗ[T] (P.baseChange (T := T)).H1Cotangent :=
+  LinearEquiv.ofBijective (P.tensorToH1Cotangent T)
+    (P.tensorToH1Cotangent_bijective_of_flat T)
+
+attribute [local instance] Algebra.TensorProduct.rightAlgebra in
+@[simp]
+lemma tensorH1Cotangent_tmul [Module.Flat R T] (t : T) (x : P.H1Cotangent) :
```
Comment (mariainesdff) [inline Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean]:
```suggestion
lemma tensorH1CotangentOfFlat_tmul [Module.Flat R T] (t : T) (x : P.H1Cotangent) : 
```

File: Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean:155]: It is not another row, but the vertical maps. I have added a comment, please let me know if it is not clear enough.

File: Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean [hunk 5]
```diff
@@ -98,6 +102,105 @@ lemma tensorCotangentSpace_tmul (t : T) (x : P.CotangentSpace) :
...
+attribute [local instance] Algebra.TensorProduct.rightAlgebra in
+@[simp]
+lemma tensorH1CotangentOfFlat_tmul [Module.Flat R T] (t : T) (x : P.H1Cotangent) :
+    (P.tensorH1CotangentOfFlat T (t ⊗ₜ x)).val = t • Cotangent.map (P.toBaseChange T) x.val :=
+  rfl
+
 end Extension
 
+/-- Flat base change commutes with `H1Cotangent`. -/
+noncomputable def tensorH1CotangentOfFlat (T : Type*) [CommRing T] [Algebra R T] [Module.Flat R T] :
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean:197]: Can we hope for somewhat reasonable lemmas characterizing this def?

**Review by robin-carlier — COMMENTED** [review]
Only a minor question, I’m happy with the rest

File: Mathlib/RingTheory/Extension/Generators.lean [hunk 6]
```diff
@@ -266,6 +268,40 @@ def baseChange (T) [CommRing T] [Algebra R T] (P : Generators R S ι) :
...
+a map of extensions. -/
+noncomputable def baseChangeFromBaseChange :
+    (P.toExtension.baseChange (T := T)).Hom (P.baseChange (T := T)).toExtension :=
+  .ofAlgHom (MvPolynomial.algebraTensorAlgEquiv R T).toAlgHom <| by
+    dsimp [Extension.baseChange]
+    ext
+    simp [RingHom.algebraMap_toAlgebra]
+
+@[simp]
+lemma baseChangeFromBaseChange_apply (x) :
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Extension/Generators.lean]:
```suggestion
lemma baseChangeFromBaseChange_apply (x : P.toExtension.baseChange.Ring) :
```

File: Mathlib/RingTheory/Extension/Generators.lean [hunk 7]
```diff
@@ -266,6 +268,40 @@ def baseChange (T) [CommRing T] [Algebra R T] (P : Generators R S ι) :
...
+noncomputable def baseChangeToBaseChange :
+    (P.baseChange (T := T)).toExtension.Hom (P.toExtension.baseChange (T := T)) :=
+  .ofAlgHom (MvPolynomial.algebraTensorAlgEquiv R T).symm.toAlgHom <| by
+    dsimp [Extension.baseChange]
+    ext
+    simp [RingHom.algebraMap_toAlgebra]
+
+set_option backward.isDefEq.respectTransparency false in
+@[simp]
+lemma baseChangeToBaseChange_apply (x) :
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Extension/Generators.lean]:
```suggestion
lemma baseChangeToBaseChange_apply (x : (baseChange T P).toExtension.Ring) :
```

File: Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean (hunk 5 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean:197]: I have added a somewhat reasonable lemma.

File: Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean (hunk 1 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/Extension/Cotangent/BaseChange.lean:155]: Thanks!
